US05208228
Step E: 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(o-nitrophenyl-sulfonyloxy)-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (87 mg) in N,N-dimethyl formamide (1 ml) was added an excess of sodium azide (25 mg) and the mixture heated to 70° C. After 7.5 hours the reaction was cooled to room temperature, diluted with ethyl acetate, extracted from half-saturated ammonium chloride, and washed with brine. The combined organics were dried over sodium sulfate and purified by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol) to give the title compound (38 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(o-nitrophenyl-sulfonyloxy)-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 87 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])OC(C)C)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H90N2O16SSi
reactant | sodium azide | 25 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 38 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CCC(CC2)OC(C)C)C)C)O[Si](C)(C)C(C)(C)C)=O | C51H87NO11Si
